US07060836B2
{(3S)-3-(3,4-Dichlorophenyl)-1-[6-(dimethylamino)-2-pyridinyl]-6-oxopiperidinyl}acetaldehyde hydrochloride
Copper (I) iodide (6.4 g, 33.3 mmol), potassium carbonate (6.3 g, 45.4 mmol) and 6-bromo-2-(dimethylamino)pyridine (WO 9843971) (9 g, 45.4 mmol) were added consecutively to a solution of (5S)-5-(3,4-dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-2-piperidinone (WO 9807722) (10 g, 30.3 mmol), in 1-methyl-2-pyrrolidinone (50 ml), and the mixture was stirred at 140° C. for 4 hours. The cooled mixture was poured into 4N hydrochloric acid, then carefully basified using 10% aqueous ammonia. The aqueous mixture was extracted with ethyl acetate (3×200 ml), and the combined organic extracts were washed with brine, dried (MgSO4) and evaporated under reduced pressure to give an orange oil. The crude product was purified by column chromatography on silica gel using methanol:dichloromethane (5:95) as eluant, and repeated using ethyl acetate as eluant. The product was treated with 1N ethereal hydrochloric acid, and evaporated under reduced pressure to afford the title compound.

reactant | potassium carbonate | 45.4 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-2-(dimethylamino)pyridine | 45.4 mmol, 9 g | BrC1=CC=CC(=N1)N(C)C | C7H9BrN2
reactant | (5S)-5-(3,4-dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-2-piperidinone | 30.3 mmol, 10 g | ClC=1C=C(C=CC1Cl)[C@]1(CCC(NC1)=O)CC1OCCO1 | C15H17Cl2NO3
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ammonia | N | H3N
solvent | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
catalyst | Copper (I) iodide | 33.3 mmol, 6.4 g | [Cu]I
product | {(3S)-3-(3,4-Dichlorophenyl)-1-[6-(dimethylamino)-2-pyridinyl]-6-oxopiperidinyl}acetaldehyde hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@H]1C(N(C(CC1)=O)C1=NC(=CC=C1)N(C)C)CC=O | InChI=1S/C20H21Cl2N3O2.ClH/c1-24(2)18-4-3-5-19(23-18)25-17(10-11-26)14(7-9-20(25)27)13-6-8-15(21)16(22)12-13;/h3-6,8,11-12,14,17H,7,9-10H2,1-2H3;1H/t14-,17?;/m0./s1
